US06949542B2
4-[3-(2-Methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-7-vinyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-5-vinyl-phenyl)-carbamic acid tert-butyl ester (Example M224) (300 mg, 0.56 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light brown solid (133 mg, 56%).

reactant | (2-{3-[3-(2-methyl-pyridin-4-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-5-vinyl-phenyl)-carbamic acid tert-butyl ester | 0.56 mmol, 300 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C=C)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NC=C1)C)=O)=O | C29H28F3N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(2-Methyl-pyridin-4-yl)-phenyl]-8-trifluoromethyl-7-vinyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=NC=CC(=C1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)C=C)C(F)(F)F | C24H18F3N3O
